US08008296B2
4-(Piperidine-1-sulfonyl)-benzoic acid
4-(Chlorosulfonyl)benzoic acid (CAS 10130-89-9) (441 mg, 2.0 mmol) and triethylamine (202 mg, 2.0 mmol) are dissolved in dichloromethane (20 mL) and stirred under nitrogen while piperidine (340 mg, 4.0 mmol) in dichloromethane (5 mL) is added to the mixture at room temperature. After 18 h the reaction mixture is concentrated. The crude material is slurried in aqueous NaHCO3, washed with diethyl ether, and separated. Ethyl acetate is added to the aqueous layer and the pH adjusted to 2 with 1N HCl. The layers are separated and the aqueous layer is extracted with EtOAc (2×). The EtOAc extracts are combined, washed with brine, dried over Na2SO4 and evaporated. The residue is purified by silica-gel column chromatography (0-8% MeOH/CH2Cl2 gradient) to give 350 mg (65%) of the title compound. MS (ES+) 270.1 (M+H)+.

reactant | 4-(Chlorosulfonyl)benzoic acid | 2.0 mmol, 441 mg | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | triethylamine | 2.0 mmol, 202 mg | C(C)N(CC)CC | C6H15N
reactant | piperidine | 4.0 mmol, 340 mg | N1CCCCC1 | C5H11N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-(Piperidine-1-sulfonyl)-benzoic acid | 350 mg, 65% | N1(CCCCC1)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C12H15NO4S
